US08383823B2
5-Methyl-1-phenyl-1H-pyridin-2-one:
A finely pulverized mixture of 2-hydroxy-5-methylpyridine (0.500 g, 4.58 mmol), anhydrous potassium carbonate (0.693 g, 6.41 mmol), copper powder (0.006 g, 0.09 mmol) and iodobenzene (1.68 g, 8.26 mmol) was heated at 180-190° C. for 7 hours. The mixture was cooled, and standard extractive workup was performed to afford a brown residue which was triturated with petroleum ether and recrystallized from hot water to yield the title compound as a white solid (0.470 g, 56%). m.p. 105-107° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.50 (s, 3H), 6.43 (d, J=9.3 Hz, 1H), 7.36-7.53 (m, 7H); IR (KBr) ν 3045, 1675, 1611, 1531, 1270 cm−1; MS 186 (M+1).

reactant | 2-hydroxy-5-methylpyridine | 4.58 mmol, 0.500 g | OC1=NC=C(C=C1)C | C6H7NO
reactant | potassium carbonate | 6.41 mmol, 0.693 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodobenzene | 8.26 mmol, 1.68 g | IC1=CC=CC=C1 | C6H5I
catalyst | copper | 0.09 mmol, 0.006 g | [Cu] | Cu
product | 5-Methyl-1-phenyl-1H-pyridin-2-one | 0.470 g, 56% | CC=1C=CC(N(C1)C1=CC=CC=C1)=O | C12H11NO
